US07312330B2
B. 7-Benzyl-5,6,7,8-tetrahydro-2-(morpholinomethyl)pyrido[3,4-d]pyrimidin-4(4aH)-one
Ethyl N-benzyl-3-oxo-4-piperidinecarboxylate hydrochloride (2.98 g, 10 mmol) and 2-Morpholinoethane-1,1-diamine (˜20 mmol) were dissolved in a solution of sodium methoxide in methanol (12 mL, 25% wt) and stirred at 100° C. in a sealed tube for 4 h. Solvent was removed in vacuo, residue was dissolved in water (100 mL) and was extracted by CHCl3 and i-PrOH (3:1, 5×80 mL), dried over sodium sulfate. Solvent was removed in vacuo, and the remaining brown solid residue was used directly in the next step.

reactant | Ethyl N-benzyl-3-oxo-4-piperidinecarboxylate hydrochloride | 10 mmol, 2.98 g | Cl.C(C1=CC=CC=C1)N1CC(C(CC1)C(=O)OCC)=O
reactant | 2-Morpholinoethane-1,1-diamine | ˜20 mmol | O1CCN(CC1)CC(N)N | C6H15N3O
solvent | sodium methoxide | C[O-].[Na+]
solvent | methanol | 12 mL | CO | CH4O
product | 7-Benzyl-5,6,7,8-tetrahydro-2-(morpholinomethyl)pyrido[3,4-d]pyrimidin-4(4aH)-one | C(C1=CC=CC=C1)N1CC2=NC(=NC(C2CC1)=O)CN1CCOCC1 | C19H24N4O2
